US08895582B2
To a solution of (S)-tert-butyl 3-((benzyloxycarbonyl)(methyl)amino)-4-(isoquinolin-3-ylcarbamoyloxy)butanoate (1.8 g, 3.65 mmol) and MeOH (5 mL) was added 10% Pd—C (500 mg). The resulting mixture was stirred under 12 psi of hydrogen for 1 h. The mixture was filtered and concentrated, and the remaining residue was dried in vacuo to give (S)-tert-butyl 4-(isoquinolin-3-ylcarbamoyloxy)-3-(methylamino)butanoate (1.3 g), which was used without further purification. LRMS (M+H+) m/z 360.1

reactant | (S)-tert-butyl 3-((benzyloxycarbonyl)(methyl)amino)-4-(isoquinolin-3-ylcarbamoyloxy)butanoate | 3.65 mmol, 1.8 g | C(C1=CC=CC=C1)OC(=O)N([C@@H](CC(=O)OC(C)(C)C)COC(NC=1N=CC2=CC=CC=C2C1)=O)C | C27H31N3O6
reactant | hydrogen | [H][H] | H2
catalyst | Pd—C | 500 mg | [Pd] | Pd
solvent | MeOH | 5 mL | CO | CH4O
product | (S)-tert-butyl 4-(isoquinolin-3-ylcarbamoyloxy)-3-(methylamino)butanoate | 1.3 g | C1=NC(=CC2=CC=CC=C12)NC(=O)OC[C@H](CC(=O)OC(C)(C)C)NC | C19H25N3O4
